US07297700B2
Preparation of 5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine-4-carboxylic acid (adamantan-1-ylmethyl)-amide
In a round bottom flask, 7-Benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimdine-4-carboxylic acid(adamantan-1-ylmethyl)-amide(1.15 g, 2.74 mmol) was dissolved in glacial acetic acid (10 mL) with stirring and 10% Pd/C (417 mg) was added. The suspension was stirred under an atmosphere of H2 for 16 h. By LCMS and TLC (DCM:MeOH::20:1), no starting material appeared to be present. The desired m/z was observed at 327.3 (M+H). The reaction mixture was then filtered through a pad of celite. The filtrate was concentrated. The resulting oil was re-dissolved in EtOAc (50 mL) with stirring. A 10% NaOH solution (50 mL) was added. The mixture was stirred at RT for 1 h. The layers were separated and the aqueous layer was extracted with EtOAc (3×50 mL). The combined organic layers were filtered through a Horizon Technologies DryDisk and concentrated. The crude oil was chromatographed using DCM/MeOH (0-30% gradient) as elutant affording 0.133 g of the title compound.

reactant | 7-Benzyl-5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimdine-4-carboxylic acid(adamantan-1-ylmethyl)-amide | 2.74 mmol, 1.15 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C3=C(N=CN2)CN(CC3)CC3=CC=CC=C3 | C26H32N4O
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | MeOH | CO | CH4O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 417 mg | [Pd] | Pd
product | 5,6,7,8-tetrahydro-pyrido[3,4-d]pyrimidine-4-carboxylic acid (adamantan-1-ylmethyl)-amide | 0.133 g | C12(CC3CC(CC(C1)C3)C2)CNC(=O)C=2C3=C(N=CN2)CNCC3 | C19H26N4O
